US05101048
Preparation of 4-acetamidophenyl 5-thio-β-D-xylopyranoside (Example 32)
If the procedure described in Preparation LXXXIV is followed starting from 1.2 g (2.8.10-3 mol) of 4-acetamidophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside and 70 μl of a solution of sodium methylate in methanol (8% w/v of Na), reacted in 100 cm3 of methanol, 0.7 g (yield: 83%) of the expected product is obtained after purification by flash chromatography using a methylene chloride/methanol mixture (93/7 v/v) as the eluent.

reactant | 4-acetamidophenyl 2,3,4-tri-O-acetyl-5-thio-β-D-xylopyranoside | 1.2 g | C(C)(=O)O[C@H]1[C@H](OC2=CC=C(C=C2)NC(C)=O)SC[C@H]([C@@H]1OC(C)=O)OC(C)=O | C19H23NO8S
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | methanol | 100 cm3 | CO | CH4O
product | 4-acetamidophenyl 5-thio-β-D-xylopyranoside | 0.7 g, yield: 83% | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)CS1)C1=CC=C(C=C1)NC(C)=O | C13H17NO5S
